US07456176B2
4-bromo-N-methyl-N-(2-pyrrolidin-1-yl-ethyl)-benzenesulfonamide (1.0 equiv, 0.82 mmol), 7-(2,6-dichloro-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamine (1.5 equiv, 1.23 mmol), Cs2CO3 (3.0 equiv, 2.46 mmol), Pd2(dba)3 (0.1 equiv, 0.082 mmol), and Xantphos (0.2 equiv, 0.1634 mmol) were dissolved in 15 mL dioxane and purged of air, then placed under an argon blanket and refluxed for 18 h at 100° C. The reaction was cooled to room temperature and filtered and condensed under reduced pressure. The residue that was recovered was dissolved in EtOAc and extracted with saturated bicarbonate and brine; the organics were then dried (Na2SO4) and concentrated to afford brown oil. Using EtOAc/hexanes (1:5 v/v) the residue was precipitated out to afford 4-[7-(2,6-dichloro-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamino]-N-methyl-N-(2-pyrrolidin-1-yl-ethyl)-benzenesulfonamide, as a tan solid, (297.2 mg, 76% yield). 1H NMR (DMSO-d6): δ 1.95 (dm, 4H), 2.72 (s, 3H), 2.73 (s, 3H), 3.04 (q, J=7.5 Hz, 2H), 3.35 (dt, J=5.3 Hz, J=5.4 Hz, 4H), 3.58 (q, J=5.2 Hz, 2H), 7.52 (t, J=7.6 Hz, 1H), 7.67 (d, J=3.2 Hz, 2H), 7.79 (s, 1H), 7.87 (d, J=3.2 Hz, 2H), 8.18 (s, 1H), 8.31 (s, J=9.0 Hz, 2H), 10.51 (bs, 1H), 11.55 (s, 1H). MS (ES+) m/z=574, LC retention time 2.80 minutes.

reactant | 4-bromo-N-methyl-N-(2-pyrrolidin-1-yl-ethyl)-benzenesulfonamide | 0.82 mmol, 1.0 equiv | BrC1=CC=C(C=C1)S(=O)(=O)N(CCN1CCCC1)C | C13H19BrN2O2S
reactant | 7-(2,6-dichloro-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamine | 1.23 mmol, 1.5 equiv | ClC1=C(C(=CC=C1)Cl)C1=CC2=C(N=C(N=N2)N)C(=C1)C | C14H10Cl2N4
reactant | Cs2CO3 | 2.46 mmol, 3.0 equiv | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Xantphos | 0.1634 mmol, 0.2 equiv | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.082 mmol, 0.1 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-[7-(2,6-dichloro-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamino]-N-methyl-N-(2-pyrrolidin-1-yl-ethyl)-benzenesulfonamide | 76% yield | ClC1=C(C(=CC=C1)Cl)C1=CC2=C(N=C(N=N2)NC2=CC=C(C=C2)S(=O)(=O)N(CCN2CCCC2)C)C(=C1)C | C27H28Cl2N6O2S
